Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abnormal head CT
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old woman with past medical history of HTN, depression, 
Grave's disease (currently off of medication with plan for RAI 
on ___, anxiety, depression, ___, nephrolithiasis, 
hypercholesterolemia who presents as an ___
transfer for evaluation of an "abnormal" head CT obtained in 
outside ED. 

Patient reports presenting to OSH ED earlier on ___ for 
___ of transient left arm numbness. She describes a sudden 
onset tingling/numbness sensation that fanned outwards from her 
left wrist to the her fingers and was most pronounced in her ___ 
and ___ digits. During this period, she felt her fingers go 
stiff, "almost contracted." Her episode of left hand numbness 
lasted for
no more than ___ minutes but she says that the acuity of this 
sensation was particular concerning, as she had been 
progressively confused over the past ___ days, endorsing 
difficulty remembering dates. On ___, she even forgot how to
use the handle to open the door of her car. 

Of note, she was recently hospitalized for nephrolithiasis 
complicated by an obstructing stone with progression to ? pyelo 
___ e. coli. She was treated with levofloxacin and her home SSRI 
was discontinued during the period of her antibiotic regimen to 
avoid ___ interactions. She attributed much of her confusion 
to the medication changes (levofloxacin, d/c SSRI). She became
acutely concerned when her hand became transiently numb and 
presented to OSH ED for further evaluation. ___ head CT at 
___ ED demonstrated "concerning finding" and she was transferred 
to ___ ED for further ___.

She did notice focal weakness and she has not fallen. No 
bladder/bowel incontinence. No change in vision. No difficulty 
with ambulation.

Remaining review of systems pertinent for >20lb weight loss over 
past year, palpitations, and worsening "shakiness/anxiety" over 
the past month. 

 
Past Medical History:
Depression, Grave's disease (currently off of medication with
plan for RAI on ___, anxiety, depression, ___,
nephrolithiasis, hypercholesterolemiaa
 
Social History:
___
Family History:
Reviewed and unremarkable for presenting complaint.
 
Physical Exam:
ON ADMISSION
============
Vitals: T98.6; HR54; SBP 175/80; RR16  SaO2 97% RA 

General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects. No apraxia. No evidence of hemineglect. No ___
confusion.  Able to follow both midline and appendicular
commands.

- Cranial Nerves - PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. ___ without deficits to light touch
bilaterally. Left eye ptosis (baseline). No facial movement
asymmetry. Hearing intact to finger rub bilaterally.  Palate
elevation symmetric. SCM/Trapezius strength ___ bilaterally.
Tongue midline. Neck motion range is severely restricted.

- Motor - Subtle atrophy of the left thenar eminence. Remaining
bulk is normal. Increased tone in neck muscles only. No drift.
Bilateral action tremor that is slightly worse on right.
  Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___
L  5    ___   ___-  5    5  5     5     5
R  5    ___   ___-  5    5  5     5     5

- Sensory - Diminished sensation to pinprick along lateral side
of left foot with some extension to lateral side of leg (just
above ankle). Proprioception, temperature intact.  No exinction
to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3+ 3+  3+    2+   1
R  3+ 3+  3+    2+   1
Bilateral pectoralis with finger jerks. + ___ on right. 
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Normal stride. 

ON DISCHARGE
============

Objective: 
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
Awake, alert, oriented x 3. Attentive to interview. Speech is
fluent with full sentences, intact repetition, and intact verbal
comprehension. Naming intact.  No paraphasias.  No dysarthria.
Normal prosody. No apraxia. No evidence of hemineglect. 

- Cranial Nerves - PERRL 3->2 brisk. EOMI, no nystagmus. ___
without deficits to light touch bilaterally. Left eye ptosis
(baseline). No facial movement asymmetry. Hearing intact to
conversation.  Palate elevation symmetric. SCM/Trapezius 
strength
___ bilaterally. Tongue midline. Neck motion range is severely
restricted.

- Motor - Subtle atrophy of the left thenar eminence. Remaining
bulk is normal. Increased tone in neck muscles only. No drift.
Bilateral action tremor that is slightly worse on right.
  Delt Bic Tri WrE FFl FE  IO  IP Quad Ham TA ___
L  5    ___   ___   5    5  5     5     5  5
R  5    ___   ___   5    5  5     5     5  5

- Sensory - Diminished sensation to pinprick along lateral side
of left foot with some extension to lateral side of leg (just
above ankle). Proprioception, temperature intact.  No exinction
to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3+ 3+  3+    2+   1
R  3+ 3+  3+    2+   1
Pec jerk present bilaterally. + ___ on right. 
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Normal stride. 

 
Pertinent Results:
ADMISSION LABS
==============
___ 01:10AM BLOOD ___ 
___ Plt ___
___ 01:10AM BLOOD ___ 
___ Im ___ 
___
___ 01:10AM BLOOD ___ 
___
___ 01:10AM BLOOD ___
___ 08:20AM BLOOD ___
___ 01:10AM BLOOD ___ 
___
___ 05:34PM URINE ___ Sp ___
___ 05:34PM URINE ___ 
___
___ 05:34PM URINE RBC-<1 ___ 
___
___ 05:34PM URINE ___ 
___

PERTINENT LABS
==============
___ 07:56AM BLOOD ___
___ 08:20AM BLOOD ___
___ 01:10AM BLOOD ___
___ 01:10AM BLOOD ___ 
___ Free ___

IMAGING
=======
MRI BRAIN: 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction.  There are mild subcortical and 
deep white matter T2/FLAIR hyperintensities that are nonspecific 
but can be seen in the setting of chronic small vessel disease.  
There is no abnormal postcontrast enhancement. 
  
The major intracranial vascular flow voids are maintained.  The 
ventricles and sulci are normal in caliber and configuration.  
There is mild mucosal 
thickening of the ethmoid air cells.  The orbits are 
unremarkable.  Fluid in the left mastoid air cells is similar to 
prior exam.  Incidental note is made of a probable sebaceous 
cyst near the posterior left scalp vertex.  The nasal septum is 
deviated to the left. 
  
MRA BRAIN: 
The intracranial vertebral and internal carotid arteries and 
their major 
branches appear normal without evidence of stenosis, occlusion, 
or aneurysm formation. 
  
MRA NECK: 
There is approximately 30% narrowing at the origin of the left 
ICA likely 
secondary to atherosclerotic disease.  The common, internal and 
external 
carotid arteries appear otherwise normal.  There is no evidence 
of internal carotid artery stenosis by NASCET criteria.  The 
origins of the great vessels, subclavian and vertebral arteries 
appear normal bilaterally. 
  
There are multiple nodules in the thyroid, measuring up to 1.1 
cm. 
  
IMPRESSION: 
1. No acute intracranial abnormality on contrast enhanced MRI 
brain.  
Specifically no evidence of acute infarct or intracranial 
hemorrhage.  No 
abnormal enhancement or mass. 
2. Mild narrowing of the origin of the right ICA by 
approximately 30%. 
3. Otherwise, no significant abnormality of the MRA of the head 
and neck. 
4. Evidence of mild white matter chronic small vessel disease. 
5. Multiple nodules in the thyroid measuring up to 1.1 cm. 
6. Additional findings as described above. 

DISCHARGE LABS

___ 08:20AM BLOOD ___ 
___ Plt ___
___ 08:20AM BLOOD ___ 
___
___ 08:20AM BLOOD ___ yo woman who presents with subacute confusion and transient 
left hand numbness and weakness. Her exam is notable for neck 
stiffness and brisk upper extremity reflexes. She had mild left 
hand weakness and numbness on the first day, which has now 
resolved. She has a positive Tinel's sign at the wrist 
bilaterally. 

She was transferred to ___ from an outside hospital after her 
head CT was reportedly abnormal, but it is unclear what exactly 
this abnormality was. Review of her head CT imaging is 
remarkable for a small hypodensity in the right frontal cortex. 
This lesion appears old and may not correlate with the clinical 
presentation. 

Differential includes both central etiology (especially given 
abrupt onset), vs peripheral (including myelopathy, given 
restricted neck motion, atrophy, and hyperreflexia). 

MRI was obtained and was negative for stroke. Aspirin 81mg was 
started for primary prevention. Her home Simvastatin was 
continued. Stroke risk factors were checked and were notable for 
A1c 6.1%, LDL 93. 

Ms. ___ is a ___ yo woman who presents with subacute 
confusion and transient left hand numbness and weakness. She had 
mild left hand weakness and numbness on the first day, which has 
now resolved. She has a positive Tinel's sign at the wrist 
bilaterally. Etiology of her symptoms most likely secondary to 
TIA as MRI negative for acute infarct. MRA showed mild narrowing 
of the origin of the right ICA by approximately 30%, otherwise 
normal. She was started on Aspirin 81mg daily. She had a TTE 
which did not show any evidence of thrombus. She was provided 
with ___ of Hearts monitor to evaluate for atrial 
fibrillation as an outpatient. She will also have treatment of 
her hyperthyroidism which can predispose to paroxysmal afib. 

Transitional issues: 
- referral to neurology through PCP
- ___ of hearts data (given to her prior to d/c) 
- ongoing titration of BP medications

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No 
2. DVT Prophylaxis administered? (x) Yes - () No 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No 
4. LDL documented? (x) Yes (LDL = 93) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
[ ] Statin medication allergy 
[ ] Other reasons documented by physician/advanced practice 
___/physician ___ (physician/APN/PA) or pharm___ 
[ ] ___ less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
() ___ - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No 
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
[ ] Statin medication allergy 
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
[ ] ___ less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Tamsulosin 0.4 mg PO QHS 
4. Vitamin D 1000 UNIT PO DAILY 
5. Citalopram 10 mg PO DAILY 
6. BusPIRone 10 mg PO BID 
7. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*5 
3.  Atenolol 50 mg PO DAILY  
4.  BusPIRone 10 mg PO BID  
5.  Citalopram 10 mg PO DAILY  
6.  Lisinopril 20 mg PO DAILY  
7.  Tamsulosin 0.4 mg PO QHS  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attack (TIA)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of left hand weakness and 
numbness resulting from a TRANSIENT ISCHEMIC ATTACK (TIA), a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is temporarily blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- hyperthyroidism 
- high cholesterol 
  
We are changing your medications as follows: 
START ASPIRIN 81MG DAILY 

Please take your other medications as prescribed.  
 
Please follow up with Neurology and your primary care physician 
as listed below.  
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___